US05731432
A mixture of 1.0 mmol of 3-bromo-4-fluorobenzaldehyde, 4 mL of DMF, 0.2 mL of triethylamine, 0.4 mL of MeOH and 0.05 mmol of Pd(PPh3)4 was heated at 90° C. at 40 psi under CO atmosphere for 16 h. Extraction and chromatography provided methyl 3-carbomethoxy-4-fluorobenzaldehyde.

reactant | 3-bromo-4-fluorobenzaldehyde | 1.0 mmol | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | MeOH | 0.4 mL | CO | CH4O
catalyst | Pd(PPh3)4 | 0.05 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-carbomethoxy-4-fluorobenzaldehyde | CC1=C(C=O)C=CC(=C1C(=O)OC)F | C10H9FO3
